US04469621
(2) Preparation of 1,10-bis(p-aminophenoxy)decane
30 g (0.1 mole) of 1,10-dibromodecane and 38 g (0.25 mole) of p-hydroxyacetanilide were heated under reflux for 8 hours in the presence of 12 g of NaOH using ethanol. After the reaction, the resulting mixture was poured into ice water and the precipitate formed was collected, followed by washing with heated ethanol. The remaining brown crystal without purification was added in a mixed solvent of 100 ml of conc. HCl and 200 ml of ethanol and the system was heated under reflux for 2 hours. A solid remained after removing the solvent under reduced pressure which was dissolved in 2 l of ice water, and a 20% NaOH aqueous solution was added thereto to neutralize. The thus-precipitated solid was collected and recrystallized from ethanol to a pale brown grained crystal having a melting point of 70° to 71° C. at a yield of 18 g (51%). The crystal was identified as 1,10-bis(p-aminophenoxy)decane from its NMR spectrum and IR spectrum.

reactant | 1,10-dibromodecane | 0.1 mole, 30 g | BrCCCCCCCCCCBr | C10H20Br2
reactant | p-hydroxyacetanilide | 0.25 mole, 38 g | OC1=CC=C(NC(C)=O)C=C1 | C8H9NO2
reactant | NaOH | 12 g | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1,10-bis(p-aminophenoxy)decane | NC1=CC=C(OCCCCCCCCCCOC2=CC=C(C=C2)N)C=C1 | C22H32N2O2
